US04160099
BENZOYLOXYMETHYLPYRIDINIUM CHLORIDE (29)
A mixture containing 0.79 g (0.01 mol) pyridine and 1.7 g (0.01 mol) chloromethyl benzoate was allowed to react at ambient temperature for 24 hr. Trituration in anhydrous ether followed by filtration under nitrogen gave 1.2 g (0.005 mol), 50%, 29, mp 197°-199° (dec); ir (KBr) 3440, 3020, 1710, 1610, 1475, 1265, 1150, 1085, 870 and 700 cm-1 ; pmr (D2O) δ 7.0-10.0 (m, 10H) and 6.6 (s, 2H) ppm.

reactant | pyridine | 0.01 mol, 0.79 g | N1=CC=CC=C1 | C5H5N
reactant | chloromethyl benzoate | 0.01 mol, 1.7 g | C(C1=CC=CC=C1)(=O)OCCl | C8H7ClO2
reactant | KBr | [K+].[Br-]
product | BENZOYLOXYMETHYLPYRIDINIUM CHLORIDE | [Cl-].C(C1=CC=CC=C1)(=O)OC[N+]1=CC=CC=C1 | InChI=1S/C13H12NO2.ClH/c15-13(12-7-3-1-4-8-12)16-11-14-9-5-2-6-10-14;/h1-10H,11H2;1H/q+1;/p-1
